US06414148B1
Pyrrolidine (7.8 ml, 94 mmol) was added dropwise to a solution of 4-chlorobut-2-yn-1-ol (4.74 g, 45 mmol) in toluene (40 ml) and the mixture stirred and heated at 60° C. for 1 hour. The volatiles were removed by evaporation and the residue was purified by chromatography eluting with methylene chloride/methanol (96/4) to give 4-(pyrrolidin-1-yl)but-2-yn-1-ol (4.3 g, 69%).

reactant | Pyrrolidine | 94 mmol, 7.8 ml | N1CCCC1 | C4H9N
reactant | 4-chlorobut-2-yn-1-ol | 45 mmol, 4.74 g | ClCC#CCO | C4H5ClO
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(pyrrolidin-1-yl)but-2-yn-1-ol | 4.3 g, 69% | N1(CCCC1)CC#CCO | C8H13NO
